US05472962
The same operations as in Preparation example 6 were carried out using 200 mg of 4-[2-(dimethylamino)ethoxy]benzoic acid in place of 4-(2-chloroethoxy)benzoic acid and 45 mg of 6-methoxy-2-cyclopentylbenzo[b]thiophene in place of 6-methoxy-2-cyclohexylbenzo[b]thiophene, and then purification was carried out by TLC (developing solvent, chloroform:methanol=19:1) to obtain 35 mg of (6-methoxy-2-cyclopentylbenzo[b]thien-3-yl)[4-[2-(dimethylamino)ethoxy]phenyl]methanone.

reactant | 4-[2-(dimethylamino)ethoxy]benzoic acid | 200 mg | CN(CCOC1=CC=C(C(=O)O)C=C1)C | C11H15NO3
reactant | 6-methoxy-2-cyclopentylbenzo[b]thiophene | 45 mg | COC=1C=CC2=C(SC(=C2)C2CCCC2)C1 | C14H16OS
product | (6-methoxy-2-cyclopentylbenzo[b]thien-3-yl)[4-[2-(dimethylamino)ethoxy]phenyl]methanone | 35 mg | COC=1C=CC2=C(SC(=C2C(=O)C2=CC=C(C=C2)OCCN(C)C)C2CCCC2)C1 | C25H29NO3S
